US05831002
g) Z-Val-Val-MeVal-Pro-Pro-Val-Phe-NH2
25 g (43.3 mmol) Z-Val-Val-MeVal-Pro-OH and 15.59 g (43.3 mmol) H-Pro-Val-Phe-NH2 were suspended in 430 ml of dry dichloromethane. After cooling to 0° C., 5.81 ml (52 mmol) N-methylmorpholine, 1.97 g (15 mmol) HOBt and 8.33 g (43.3 mmol) EDCI were added and the reaction mixture stirred overnight at room temperature. The solvents were evaporated, the residue dissolved in 640 ml dichloromethane and thoroughly washed with saturated aqueous NaHCO3 solution (4×), water (1×), 5% citric acid (3×) and saturated NaCl solution. The organic phase was dried over sodium sulfate and evaporated to dryness to yield 33.04 g of the product. The crude product was chromatographed on a silica gel column with 20% MeOH/Hexane. 18.32 g of the desired product were obtained.

reactant | Z-Val-Val-MeVal-Pro-OH | 43.3 mmol, 25 g | N([C@@H](C(C)C)C(=O)N[C@@H](C(C)C)C(=O)N([C@@H](C(C)C)C(=O)N1[C@H](C(=O)O)CCC1)C)C(=O)OCC1=CC=CC=C1 | C29H44N4O7
reactant | H-Pro-Val-Phe-NH2 | 43.3 mmol, 15.59 g | N1[C@H](C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N)CCC1 | C19H28N4O3
reactant | N-methylmorpholine | 52 mmol, 5.81 ml | CN1CCOCC1 | C5H11NO
reactant | HOBt | 15 mmol, 1.97 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 43.3 mmol, 8.33 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | dichloromethane | 430 ml | ClCCl | CH2Cl2
product | Z-Val-Val-MeVal-Pro-Pro-Val-Phe-NH2 | 33.04 g | N([C@@H](C(C)C)C(=O)N[C@@H](C(C)C)C(=O)N([C@@H](C(C)C)C(=O)N1[C@H](C(=O)N2[C@H](C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC3=CC=CC=C3)C(=O)N)CCC2)CCC1)C)C(=O)OCC1=CC=CC=C1 | C48H70N8O9
